US09169254B2
HATU (245 mg, 0.644 mmol) was added to a solution of 1-(2-{4-[(2-allyloxy-ethyl)-methyl-carbamoyl]-2-methyl-phenyl}-ethanesulfonyl)-4-amino-piperidine-4-carboxylic amide (250 mg), 3-but-3-enyloxy-4-trifluoromethyl-benzoic acid (155 mg, 0.596 mmol) and diisopropylethylamine (0.140 ml, 0.812 mmol) in DMF (5 ml), and the mixture was stirred at room temperature for 1.5 hours. Water was added to the reaction solution, followed by extraction with ethyl acetate. The organic layer was washed with water and saturated brine, and then dried over anhydrous sodium sulfate and concentrated under reduced pressure to give 1-(2-{4-[(2-allyloxy-ethyl)-methyl-carbamoyl]-2-methyl-phenyl}-ethanesulfonyl)-4-(3-but-3-enyloxy-4-trifluoromethyl-benzoylamino)-piperidine-4-carboxylic amide as a crude compound (381 mg).

reactant | HATU | 0.644 mmol, 245 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-(2-{4-[(2-allyloxy-ethyl)-methyl-carbamoyl]-2-methyl-phenyl}-ethanesulfonyl)-4-amino-piperidine-4-carboxylic amide | 250 mg | C(C=C)OCCN(C(=O)C1=CC(=C(C=C1)CCS(=O)(=O)N1CCC(CC1)(C(=O)N)N)C)C | C22H34N4O5S
reactant | 3-but-3-enyloxy-4-trifluoromethyl-benzoic acid | 0.596 mmol, 155 mg | C(CC=C)OC=1C=C(C(=O)O)C=CC1C(F)(F)F | C12H11F3O3
reactant | diisopropylethylamine | 0.812 mmol, 0.140 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | 1-(2-{4-[(2-allyloxy-ethyl)-methyl-carbamoyl]-2-methyl-phenyl}-ethanesulfonyl)-4-(3-but-3-enyloxy-4-trifluoromethyl-benzoylamino)-piperidine-4-carboxylic amide | C(C=C)OCCN(C(=O)C1=CC(=C(C=C1)CCS(=O)(=O)N1CCC(CC1)(C(=O)N)NC(C1=CC(=C(C=C1)C(F)(F)F)OCCC=C)=O)C)C | C34H43F3N4O7S
